US07208506B2
Sodium hydride (60% dispersion in mineral oil) (36 mg, 0.9 mmol) was added to a solution of (E)-2-Pyridin-3-yl-ethenesulfonic acid amide (56 mg, 0.3 mmol) in dioxane (1 mL) and the mixture was shaken for 30 minutes. A solution of 2,4-dichlorobenzoyl chloride (63 μL, 0.45 mmol) in dioxane (0.5 mL) was added to the mixture and the whole was shaken at room temperature for 18 hours. Water (0.1 mL) was added to the mixture and the whole was concentrated in vacuo. The resultant residue was purified by preparative HPLC to give (E)-2-pyridin-3-yl-ethenesulfonic acid 2,4-dichloro-benzoylamide (29.1 mg, 26%) as sodium salt.

reactant | Sodium hydride | 0.9 mmol, 36 mg | [H-].[Na+]
reactant | (E)-2-Pyridin-3-yl-ethenesulfonic acid amide | 0.3 mmol, 56 mg | N1=CC(=CC=C1)/C=C/S(=O)(=O)N | C7H8N2O2S
reactant | 2,4-dichlorobenzoyl chloride | 0.45 mmol, 63 μL | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | Water | 0.1 mL | O | H2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (E)-2-pyridin-3-yl-ethenesulfonic acid 2,4-dichloro-benzoylamide | 29.1 mg, 26% | ClC1=C(C(=O)NS(=O)(=O)\C=C\C=2C=NC=CC2)C=CC(=C1)Cl | C14H10Cl2N2O3S
